US04683309
Preparation of 4-[m-[[m-(m-phenoxyphenoxy)phenyl]ethynyl]phenoxy]benzil
To a 250 ml flask fitted with a reflux condenser, nitrogen inlet and thermometer were added 4(3-bromophenoxy)benzil (11.08 g, 29.08 mmol), 1-(3-ethynylphenoxy)-3-phenoxybenzene (21.64 g, 75.66 mmol), triethylamine (150 ml), and triphenylphosphine (0.40 g). After stirring at room temperature under a nitrogen atmosphere for 10 minutes, cuprous iodide (Alfa 98%, 0.20 g) and dichlorobis(triphenylphosphine)palladium (II) (0.20 g) were added. The flask was heated to an internal temperature of 90° C. and maintained by oil bath heating under nitrogen until TLC indicated reaction completion (4 hr). The triethylamine was distilled from the residue and the residue was suspended in toluene. The toluene was washed with 15% HCl (560 ml) twice and separated. The organic layer was washed with ethylenediamine (20 ml) by adding the ethylenediamine at room temperature, heating to 60° C. for 0.5 h and cooling. Water (250 ml) was added and the toluene was separated from the aqueous layer. The ethylenediamine wash was repeated once more. After washing with water (3×500 ml), the organic layer was dried over anhydrous magnesium sulfate (3.00 g) and the toluene distilled by rotary evaporation at reduced pressure to give a dark brown oil. The oil was dissolved in 4:1 hexane:methylene chloride and chromatographed on a silica gel column (Woelm DCC, 230 g, 5 cm dia×25 cm H) using 4:1 hexane:methylene chloride as the eluent. The product was dried in a 70° C. oven under reduced pressure to afford a light brown tacky oil (7.52 g, 44%).

reactant | 4(3-bromophenoxy)benzil | 29.08 mmol, 11.08 g | BrC=1C=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=CC1 | C20H13BrO3
reactant | 1-(3-ethynylphenoxy)-3-phenoxybenzene | 75.66 mmol, 21.64 g | C(#C)C=1C=C(OC2=CC(=CC=C2)OC2=CC=CC=C2)C=CC1 | C20H14O2
reactant | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | hexane | CCCCCC | C6H14
catalyst | dichlorobis(triphenylphosphine)palladium | 0.20 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[m-[[m-(m-phenoxyphenoxy)phenyl]ethynyl]phenoxy]benzil | 7.52 g, 44% | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)C#CC=2C=C(OC3=CC=C(C=C3)C(=O)C(=O)C3=CC=CC=C3)C=CC2)C=CC1 | C40H26O5
